US09212196B2
Ethyl 2-(4-(bromomethyl)-2-chloro-6-methoxyphenoxy)acetate
The compound was prepared according to general procedure G with ethyl 2-(2-chloro-4-(hydroxymethyl)-6-methoxyphenoxy)acetate (1.3 mmol) in dichloromethane (12 ml) and PBr3 (1.3 mmol). 338 mg of compound were obtained (78% yield). This compound was used without further purification. 1H NMR (250 MHz, CD3OD): δ 1.29 (m, 3H), 3.83 (s, 3H), 4.15 (m, 2H), 4.55 (s, 2H), 4.94 (s, 2H) 6.80 (d, J=2.0 Hz, 1H), 6.85 (d, J=2.0 Hz, 1H). MS (ESI): m/z 336.9 [M−H]−, 360.8 [M+Na]+

reactant | ethyl 2-(2-chloro-4-(hydroxymethyl)-6-methoxyphenoxy)acetate | 1.3 mmol | ClC1=C(OCC(=O)OCC)C(=CC(=C1)CO)OC | C12H15ClO5
reactant | PBr3 | 1.3 mmol | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | Ethyl 2-(4-(bromomethyl)-2-chloro-6-methoxyphenoxy)acetate | 338 mg, 78% yield | BrCC1=CC(=C(OCC(=O)OCC)C(=C1)OC)Cl | C12H14BrClO4
